US07943610B2
Methanesulfonyl chloride (0.30 g, 0.20 mL, 2.58 mmol) was added to a stirring suspension of N1-(2-piperidin-4-ylethyl)-2-propyl-2H-pyrazolo[3,4-c]quinoline-1,4-diamine dihydrochloride (1.0 g, 2.35 mmol) and triethylamine (0.59 g, 0.82 mL, 5.88 mmol) in dichloromethane (10 mL). The resulting suspension was stirred at ambient temperature 16 hours. Additional dichloromethane (90 mL), triethylamine (4.2 g, 5.7 mL, 41.1 mmol) and methanesulfonyl chloride (0.19 g, 0.13 mL, 1.66 mmol) were added to the mixture and the resulting cloudy suspension was stirred at ambient temperature 3 days. The reaction mixture was concentrated and the resulting brown solid was purified by column chromatography using a HORIZON HPFC system (silica cartridge, eluting with 5-20% methanol in dichloromethane). The resulting oil was crystallized from acetonitrile and isolated by filtration to yield 169 mg of N1-{2-[1-(methylsulfonyl)piperidin-4-yl]ethyl}-2-propyl-2H-pyrazolo[3,4-c]quinoline-1,4-diamine as an off-white solid, mp 204-207° C. Anal. calcd for C21H30N6O2S: C, 58.58; H, 7.02; N, 19.52. Found: C, 58.77; H, 6.92; N, 19.54.

reactant | Methanesulfonyl chloride | 2.58 mmol, 0.20 mL, 0.30 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N1-(2-piperidin-4-ylethyl)-2-propyl-2H-pyrazolo[3,4-c]quinoline-1,4-diamine dihydrochloride | 2.35 mmol, 1.0 g | Cl.Cl.N1CCC(CC1)CCNC=1N(N=C2C(=NC=3C=CC=CC3C21)N)CCC
reactant | triethylamine | 5.88 mmol, 0.82 mL, 0.59 g | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 41.1 mmol, 5.7 mL, 4.2 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.66 mmol, 0.13 mL, 0.19 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | N1-{2-[1-(methylsulfonyl)piperidin-4-yl]ethyl}-2-propyl-2H-pyrazolo[3,4-c]quinoline-1,4-diamine | 169 mg | CS(=O)(=O)N1CCC(CC1)CCNC=1N(N=C2C(=NC=3C=CC=CC3C21)N)CCC | C21H30N6O2S
